US04859231
(c) 1-Acetyl-5-amino-N-(2,6-dichlorophenyl)-1,2,4-triazole-3-sulphonamide
42.63 g (0.26 mol) 2,6-dichloroaniline in 350 ml pyridine was treated with 54 g (0.24 mol) of 1-acetyl-5-amino-1,2,4-triazole-3-sulphonyl chloride and stirred at 60° C. for 12 hours. After cooling, the crystals were separated, washed with a small amount of pyridine and ether and dried in vacuo.

reactant | 2,6-dichloroaniline | 0.26 mol, 42.63 g | ClC1=C(N)C(=CC=C1)Cl | C6H5Cl2N
reactant | 1-acetyl-5-amino-1,2,4-triazole-3-sulphonyl chloride | 0.24 mol, 54 g | C(C)(=O)N1N=C(N=C1N)S(=O)(=O)Cl | C4H5ClN4O3S
solvent | pyridine | 350 ml | N1=CC=CC=C1 | C5H5N
product | 1-Acetyl-5-amino-N-(2,6-dichlorophenyl)-1,2,4-triazole-3-sulphonamide | C(C)(=O)N1N=C(N=C1N)S(=O)(=O)NC1=C(C=CC=C1Cl)Cl | C10H9Cl2N5O3S
